US07947718B2
(4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-pyrazin-2-yl)-methanone
5-Formyl-pyrazine-2-carboxylic acid methyl ester. A solution of 5-dibromomethyl-pyrazine-2-carboxylic acid methyl ester (1.00 g, 3.23 mmol) in a mixture of ethanol (20 mL) and THF (10 mL) was heated to 80° C. A solution of silver nitrate (2.20 g, 12.9 mmol) in H2O (4 mL) was added. The reaction mixture was heated at 80° C. for 1.25 h and was filtered while hot. The filtrate was concentrated to yield the title compound (1.36 g). This material was carried to the next step without purification.

reactant | 5-Formyl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)C=O | C7H6N2O3
reactant | 5-dibromomethyl-pyrazine-2-carboxylic acid methyl ester | 3.23 mmol, 1.00 g | COC(=O)C1=NC=C(N=C1)C(Br)Br | C7H6Br2N2O2
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 4 mL | O | H2O
catalyst | silver nitrate | 12.9 mmol, 2.20 g | [N+](=O)([O-])[O-].[Ag+]
product | (4-Isopropyl-piperazin-1-yl)-(5-piperidin-1-ylmethyl-pyrazin-2-yl)-methanone | 1.36 g | C(C)(C)N1CCN(CC1)C(=O)C1=NC=C(N=C1)CN1CCCCC1 | C18H29N5O
